US03959365
An amount of 19.2 g. (0.15 moles) of pipecolamide is added portionwise to 102 g. (1.0 moles) of acetic anhydride over a 15 minute period with stirring. The temperature rises to ca. 60°C. The mixture is then heated to reflux, during which the solid dissolves and the solution turns a dark brown. After refluxing for 4 hours, the reaction mixture is subjected to vacuum distillation (first at 60 mm Hg to remove acetic acid and excess acetic anhydride, and then at 1-4 mm Hg pressure). Thus is obtained 15.3 grams of 1-acetyl-2-cyanopiperidine, boiling at 104°-14°C. This corresponds to a 67% yield based on pipecolamide.

reactant | pipecolamide | 0.15 moles | N1C(C(=O)N)CCCC1 | C6H12N2O
reactant | acetic anhydride | 1.0 moles | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-2-cyanopiperidine | 15.3 grams, 67% yield | C(C)(=O)N1C(CCCC1)C#N | C8H12N2O
